US07816405B2
5-Chloro-2-[[(2R)-2-fluoro-3-(trityloxy)propyl]oxy]benzonitrile
Perfluorobutanesulfonyl fluoride (594 g, 2.0 mol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (282 g, 1.85 mol) were added to an ice-cooled toluene (14.5 L) solution of 5-chloro-2-[[(2S)-2-hydroxy-3-(trityloxy)propyl]oxy]benzonitrile (580 g, 1.23 mol) at the same temperature in a nitrogen atmosphere, followed by stirring the reaction mixture at 35° C. Toluene (2.0 L) and a 1N sodium hydroxide aqueous solution (1.7 L) were added to the reaction mixture to separate an organic layer which was then washed 3 times each sequentially with the 1N sodium hydroxide aqueous solution (1.7 L) and water (1.1 L), followed by vacuum concentration. Methanol (3.3 L) was added to the resultant crude crystal, followed by heating the reaction mixture to 44° C. before cooling to room temperature. The precipitated crystal was filtered and then washed with methanol (0.75 L), followed by drying at 50° C. for 18 hours to obtain 470 g of the title compound (yield: 81%).

reactant | Perfluorobutanesulfonyl fluoride | 2.0 mol, 594 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.85 mol, 282 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 5-chloro-2-[[(2S)-2-hydroxy-3-(trityloxy)propyl]oxy]benzonitrile | 1.23 mol, 580 g | ClC=1C=CC(=C(C#N)C1)OC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H24ClNO3
reactant | sodium hydroxide | 1N, 1.7 L | [OH-].[Na+]
solvent | Toluene | 2.0 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 14.5 L | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-[[(2R)-2-fluoro-3-(trityloxy)propyl]oxy]benzonitrile | 470 g, yield: 81% | ClC=1C=CC(=C(C#N)C1)OC[C@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23ClFNO2
